US08614215B2
Intermediate 74: 3-Methoxy-N-(2-methoxyethyl)-5-nitrobenzamide
To a solution of 3-methoxy-5-nitrobenzoic acid (1 g; 5.1 mmol; 1 eq) DCM (40 mL) is added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (972 mg; 5.1 mmol; 1 eq). After 5 min, 2-methoxyethylamine (381 mg; 5.1 mmol; 1 eq) is added and the reaction mixture is stirred at room temperature for 2 h. The reaction mixture is then quenched with water and the expected product extracted with EtOAc. The organic phase is washed with an aqueous solution of Na2CO3 then dried over MgSO4. The solvent is evaporated to dryness to afford (1.3 g (100%) of the title compound as an orange oil. HPLC (max plot) 73.0%; Rt 2.98 min.

reactant | 3-methoxy-5-nitrobenzoic acid | 5.1 mmol, 1 g, 1 eq | COC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C8H7NO5
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 5.1 mmol, 972 mg, 1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 2-methoxyethylamine | 5.1 mmol, 381 mg, 1 eq | COCCN | C3H9NO
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-N-(2-methoxyethyl)-5-nitrobenzamide | 1.3 g, 100% | COC=1C=C(C(=O)NCCOC)C=C(C1)[N+](=O)[O-] | C11H14N2O5
